US06803380B1
1-(4-methoxy-phenyl)-5-(4-aminosulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole
To an ice cooled solution of 1-(4-methoxy-phenyl)-5-(4-methylsulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole (10 g, 25.19 mmol) in THF (100 ml) was added dropwise a 2 M solution of n-butylmagnesium chloride in THF (21 ml, 42 mmol). Then the reaction mixture was stirred at room temperature for 3 h. The reaction mixture was cooled to 0° C., a 1 M solution of triethylborane in THF (70 ml, 70 mmol) was added dropwise and the reaction mixture was refluxed for 18 h. After cooling, a solution of hydroxylamine-O-sulfonic acid (12 g, 106 mmol) and sodium acetate (17.38 g, 210 mmol) in H2O (140 ml) was added dropwise while maintaining the temperature below 15° C. Then the reaction mixture was stirred at room temperature for 2 h, the residue was extracted with ethyl acetate (2×100 ml), the organic layer was washed with saturated brine, dried over sodium sulfate and evaporated under vacuum. The resulting residue was chromatographed on silica gel using a 99/1 then 98/2 mixture of methylene chloride/methanol as the eluent, then recrystallized from ethanol to give a beige solid (2.5 g, 25%).

reactant | 1-(4-methoxy-phenyl)-5-(4-methylsulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole | 25.19 mmol, 10 g | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C17H14F3N3O3S
reactant | n-butylmagnesium chloride | C(CCC)[Mg]Cl
reactant | triethylborane | C(C)B(CC)CC | C6H15B
reactant | hydroxylamine-O-sulfonic acid | 106 mmol, 12 g | NOS(=O)(=O)O | H3NO4S
reactant | sodium acetate | 210 mmol, 17.38 g | C(C)(=O)[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | H2O | 140 ml | O | H2O
solvent | THF | 70 mmol, 70 ml | C1CCOC1 | C4H8O
solvent | THF | 42 mmol, 21 ml | C1CCOC1 | C4H8O
product | 1-(4-methoxy-phenyl)-5-(4-aminosulfonyl-phenyl)-3-trifluoromethyl-1H-1,2,4-triazole | 2.5 g, 25% | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)S(=O)(=O)N)C(F)(F)F | C16H13F3N4O3S
